US08183246B2
Add, at 0° C., 59 mg (1.5 mmol) of 60% sodium hydride to a solution of 461 mg (7.4 mmol) ethylene glycol in 10 ml DMF. After warming to room temperature, continue stirring for 1 h. Then add 0.50 g (1.5 mmol) 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine and stir the mixture for 3 h at room temperature. Next, dilute with water and extract with ethyl acetate. Wash the organic phase with saturated sodium chloride solution, dry over magnesium sulphate and concentrate by evaporation. The raw product thus obtained is purified by RP-HPLC (column: Gromsil 250 mm×30 mm, 10 μm; acetonitrile/water gradient: 0-3 min 5% acetonitrile, 3-50 min 5%→98% acetonitrile, 50-55 min 98% acetonitrile). In this way, 412 mg (77% of theor.) 2-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}ethanol is obtained.

reactant | sodium hydride | 1.5 mmol, 59 mg | [H-].[Na+]
reactant | ethylene glycol | 7.4 mmol, 461 mg | C(CO)O | C2H6O2
reactant | 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine | 1.5 mmol, 0.50 g | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2 | C19H13ClN2O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}ethanol | 412 mg, 77% | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)OCCO)C2=CC=CC=C2 | C21H18N2O4
